US08008327B2
Synthesis of 5-({[1-(4-Fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-pyridine-2-carboxylic acid ethyl ester (5)
In a pressure reactor with stirring, a mixture of the 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-bromo-pyridin-3-ylmethyl)-amide (260 mg, 0.61 mmol), triethylamine (0.17 mL, 1.2 mmol), dichloro(bisbenzonitrile) palladium (4.7 mg, 0.011 mmol), and 1,1-bis(diphenylphosphino)ferrocene (dppf) (20.3 mg, 0.0365 mmol) in absolute ethanol (10 mL) was charged with 15 bars of carbon monoxide and warmed at 140° C. After 4 hours, the pressure reactor was then cooled to room temperature, chilled on ice and returned to atmospheric pressure. The solution was diluted with saturated aqueous ammonium chloride (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with saturated aqueous ammonium chloride (2×25 mL), brine (25 mL), dried over magnesium sulfate, filtered and concentrated. The resulting orange solid was purified by silica gel chromatography, eluting with a gradient of 0-10% MeOH in CH2Cl2. The resulting solid was purified again by silica gel chromatography, eluting with a gradient of 70-100% ethyl acetate in hexanes to afford the title compound.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-bromo-pyridin-3-ylmethyl)-amide | 0.61 mmol, 260 mg | BrC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C20H14BrFN4O
reactant | triethylamine | 1.2 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.0365 mmol, 20.3 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 5-({[1-(4-Fluoro-phenyl)-1H-indazole-4-carbonyl]-amino}-methyl)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=C(C=C1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C23H19FN4O3
